US09328117B2
A mixture of 3,6-dichloropyridazine (20 g, 0.135 mol) and 20 mL of 80% hydrazine hydrate in 40 mL of ethanol was refluxed for 1 h. The reaction mixture was evaporated to dryness and the residue was recrystallized from benzene to give 3-chloro-6-hydrazinylpyridazine as a yellow solid (19 g, 96%). LRMS (M+H+) m/z: calcd 145.03; found 145.

reactant | 3,6-dichloropyridazine | 0.135 mol, 20 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | hydrazine hydrate | 20 mL | O.NN
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 3-chloro-6-hydrazinylpyridazine | 19 g, 96% | ClC=1N=NC(=CC1)NN | C4H5ClN4
